US07423053B2
A solution of 4-methanesulfonylphenylamine (2.4 g, 14 mmol) was dissolved in a mixture of water (30 mL) and hydrochloric acid (9 mL, 37%). This was treated drop wise at room temperature with thiophosgene (1.5 g, 13.2 mmol) with good stirring. After 1 h, the suspension was filtered, washed with water and dried over P2O5 to give 2.4 g (85% yield) of 1-isothiocyanato4-methanesulfonylbenzene. 1H NMR (CDCl3), 300 MHz δ3.09 (s, 3H, CH3), 7.41(d, 2H, Aromatic), 7.98 (d, 2H, Aromatic).

reactant | 4-methanesulfonylphenylamine | 14 mmol, 2.4 g | CS(=O)(=O)C1=CC=C(C=C1)N | C7H9NO2S
reactant | thiophosgene | 13.2 mmol, 1.5 g | C(=S)(Cl)Cl | CCl2S
solvent | water | 30 mL | O | H2O
solvent | hydrochloric acid | 9 mL | Cl | ClH
product | 1-isothiocyanato4-methanesulfonylbenzene | 2.4 g, 85% yield | N(=C=S)C1=CC=C(C=C1)S(=O)(=O)C | C8H7NO2S2
